US09216999B2
1-(Piperidin-4-yl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine
5% Palladium-carbon (10.0 mg) was added to benzyl 4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)piperidine-1-carboxylate (30.0 mg, 0.0800 mmol) in methanol (2 mL) under an argon atmosphere, and after the reaction system was flushed with hydrogen, the reaction mixture was stirred at room temperature for 6 hours and then filtered. The filtrate was concentrated under reduced pressure. The resulting yellow solid was washed with methanol and collected by filtration to give the title compound as a pale yellow solid (5.0 mg, yield 26%).

reactant | benzyl 4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)piperidine-1-carboxylate | 0.0800 mmol, 30.0 mg | C=1(N=NN2C=NC3=C(C21)C=CN3)C3CCN(CC3)C(=O)OCC3=CC=CC=C3 | C20H20N6O2
solvent | methanol | 2 mL | CO | CH4O
catalyst | Palladium-carbon | 10.0 mg | [C].[Pd]
product | 1-(Piperidin-4-yl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine | 5.0 mg, yield 26% | N1CCC(CC1)C=1N=NN2C=NC3=C(C21)C=CN3 | C12H14N6
